Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Memory Loss
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ right handed woman with a history of
migraine with aura, HTN, and remote lymphoma who presents to the
ED with an episode of confusion today after her swim class. 

She went to her usual swim class this morning, which was
described as a senior swim class and not strenuous. The water
wasn't particularly cold. She took a shower afterward. The class
was from ___ and she arrived home around 10:30am. At home she
began to get confused about the whereabouts of her daughter. 

Her daughter got home from college a week ago. Three days ago 
she
left to go visit her brother and sister-in-law in ___, 
___.
When Ms. ___ arrived home this morning, she saw her
daughter's belongings around the house but couldn't find her
daughter. She did not remember that she was in ___. She
was confused and disoriented. She tried calling her daughter 3
times but she didn't answer. She called her daughter-in-law at
~11am and during that conversation she kept repeating the same
questions over and over again - asking what day it was, asking
where her daughter was. 30 minutes later she called back and
asked the same questions repeatedly again. She did not remember
the phone call ___ minutes prior (and still doesn't remember that
___ phone call). At that point, the patient's daughter and
sister-in-law began to drive back home from ___ to bring
her to the hospital. During the drive she spoke with her 
daughter
on the phone and again asked the same questions repeatedly about
what day it is. They arrived home around 12:10 and noted the
patient to have a "flat look" on her face, was talking softly,
and appeared "spaced out." She was starting to remember things
better by this point. Her memory has continued to improve and by
~2:30 pm she began making sense consistently again.

Throughout this time of confusion, she also felt an odd 
sensation
in her tongue, as if it was swollen, with an odd sensation in 
the
back of her throat and may have had some difficulty swallowing.
She has associated nausea as well. She also has some new neck
pain, described as a mild discomfort, ___ in severity, in the
middle posterior neck. She has no neck stiffness. She does not
typically get neck pain with her migraines (which are usually
pain in the temples without nausea, sometimes with a visual
aura). The odd tongue sensation has improved, but has not
completely resolved. She continues to have the neck discomfort.
Her daughter and daughter-in-law feel her voice and facial
expressions are now back to baseline.

Nothing like this has happened before. She has no personal or
family history of seizures. She denies ___, abnormal smells,
and gastric rising sensations. The past few weeks has been
feeling somewhat forgetful and fatigued but has not had any
events like this one. She continues to have some gaps in her
memory from this morning but remembers the events of the earlier
morning (like her swim class) just fine. 

Review of Systems:
The pt denies loss of vision, blurred vision, diplopia,
dysarthria, lightheadedness, vertigo, tinnitus or hearing
difficulty. Denies difficulties producing or comprehending
speech.  Denies focal weakness, numbness, parasthesiae. No bowel
or bladder incontinence or retention. Denies difficulty with
gait. The pt denies recent fever or chills.  No recent weight
loss. Denies cough, shortness of breath.  Denies chest pain or
palpitations.  Denies vomiting, diarrhea, or abdominal pain.  No
recent change in bowel or bladder habits.  No dysuria. Denies
rash.

 
Past Medical History:
Hodgkin lymphoma s/p radiation to chest and splenectomy at age 
___
hypothyroidism
Trigeminal neuralgia 
History of genital herpes
borderline HTN 
migraines with aura
some radiation cardiac side effects
lumbar spine disk herniation s/p injection
 
Social History:
___
Family History:
- Mother with diabetes and hypertension
- Father with hypertension, HLD, stroke, and renal cancer
 
Physical Exam:
EXAMINATION
Vitals:  98.9  93  137/68  18  100% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT
Neck: Supple with full ROM. 
Pulmonary: breathing comfortably on RA
Abdomen: soft, nondistended
Extremities: no edema, warm
Skin: no rashes or lesions noted.
 
NEUROLOGIC EXAMINATION
-Mental Status: Alert, oriented.  Has difficulty remembering
details of this morning but otherwise is able to relate her
medical history without difficulty.  Language is fluent with
intact repetition and normal prosody.  There were no paraphasic
errors.  Pt. was able to name both high and low frequency 
objects
on the stroke card. Described the cookie jar picture with 
detail.
Able to read without difficulty.  Speech was not dysarthric. 
Able to follow both midline and appendicular commands.  She is
able to name ___ backward but makes a couple mistakes.  Able to
register 5 objects and recall ___ at 5 minutes (did not recall
___ item despite multiple choice clues). She recalled and found 
3
items hidden around the room. There was no evidence of neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm bilaterally.  VFF to confrontation with 
finger
counting.
III, IV, VI: EOMI with a couple beats of end gaze nystagmus.   
V: Facial sensation intact to light touch in all distributions 
VII: No facial droop with symmetric upper and lower facial
musculature bilaterally  
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: full strength in trapezii bilaterally.
XII: Tongue protrudes in midline with full ROM right and left 
 
-Motor: No pronator drift bilaterally. No tremor noted. 
 Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___
L  ___   ___  ___   5   5    5     5   5
R  ___   ___  ___   5   5    5     5   5
 
-DTRs:
    Bi  Tri  ___  Pat  Ach
L   2    2     2     2    2
R   2    2     2     2    2
- Toes were downgoing bilaterally.

-Sensory: No deficits to light touch, pinprick, cold sensation
throughout. Mildly decreased vibratory sense in the toes
bilaterally. No extinction to DSS visually.

-Coordination: No dysmetria on FNF or HKS bilaterally. No
rebound.

-Gait: Good initiation. Narrow-based, normal stride.  Able to
walk in tandem and on toes and heels without difficulty. Romberg
absent.
 

++++++++++++++++++++++++++++++++++++++
DISCHARGE EXAM:

Upon discharge, she was speaking fluently but did have 
difficulty with naming ___ backwards. ___ registration and ___ 
recall at 5 minutes. Full strength, no facial droop, no 
dysmetria.
 
Pertinent Results:
___ 01:40PM BLOOD WBC-7.8 RBC-4.53 Hgb-14.0 Hct-42.4 MCV-94 
MCH-30.9 MCHC-33.0 RDW-13.5 RDWSD-46.2 Plt ___
___ 06:45AM BLOOD Glucose-90 UreaN-14 Creat-0.9 Na-140 
K-4.4 Cl-101 HCO3-28 AnGap-15
___ 01:40PM BLOOD ___ PTT-30.9 ___
___ 01:40PM BLOOD ALT-18 AST-25 AlkPhos-93 TotBili-0.4
___ 06:45AM BLOOD %HbA1c-6.0 eAG-126
___ 01:40PM BLOOD TSH-4.0
___ 01:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 06:45AM BLOOD Triglyc-68 HDL-79 CHOL/HD-3.4 
LDLcalc-178*

CT/CTA ___
1. Nonvisualization of the V1 and V2 segments of left vertebral 
artery, either 
secondary to occlusion/dissection or technical in etiology.  The 
V3 and V4 
segments are visualized though markedly diminutive.  In 
addition, given 
secondary findings of diminutive left cervical transverse 
foramina, it is felt 
that the left vertebral artery is likely congenitally 
hypoplastic. 
2. Mild atherosclerosis involving the intracranial and cervical 
vasculature as 
described above.  No stenosis by NASCET criteria. 
3. Of note, the examination of the vertebral arteries, 
particularly of the 
left is suboptimal secondary to extensive venous reflux, 
presumably secondary 
to left-sided contrast injection in the setting of left 
brachiocephalic vein 
compression between the aortic arch and the manubrium. 

Brain MRI/A ___
 
1. No infarct or enhancing intracranial mass. 
2. Limited vertebral artery evaluation secondary to adjacent 
venous flow from 
reflux from left brachiocephalic vein compression at the level 
of the aortic 
arch.  Within this limitation, major cervical arteries appear 
patent, but the 
left vertebral artery is either markedly diminutive or absent. 

EEG ___
IMPRESSION: This is an abnormal awake and asleep EEG due to the 
presence of 
occasional ___ second bursts of bitemporal theta slowing and 
temporally 
maximal generalized slowing which are accentuated during 
hyperventilation. 
This finding is indicative of possible underlying small vessel 
disease. There 
are no epileptiform discharges or electrographic seizures. 
  

 
Brief Hospital Course:
Ms. ___ was admitted to the neurology service. 

This is a ___ with a history of migraine with aura, HTN, and 
remote lymphoma who presented with an episode of confusion after 
her swim class. She was described as repeating the same 
questions over and over again. On exam, she had some difficulty 
with MOH backwards but otherwise her neuro exam is non-focal. 
Overall, her history is most consistent with transient global 
amnesia, for which submersion in cold water is a risk factor. 

However, her description of tongue heaviness is atypical for TGA 
and she also had new neck discomfort, both of which resolved. 
Seizure and an infarct to the hippocampus through the posterior 
circulation were also on the differential.

Head CT/CTA normal with diminutive L vertebral artery. MRI/A 
normal with diminutive L vertebral artery without infarct. EEG 
without epileptiform activity (bitemporal theta which may be 
present in small vessel disease). TSH 4.0. A1C 6.0. LDL 178. 
Therefore, she had no evidence of posterior circulation stroke 
or seizure. Given her normal evaluation, it was ultimately 
thought this was an episode of TGA. She was discharged to home 
with neurology follow-up. Recommended diet and exercise for 
elevated LDL. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
2. Gabapentin 100 mg PO DAILY 
3. Levothyroxine Sodium 50 mcg PO DAILY 
4. ValACYclovir 500 mg PO Q6H 
5. Aspirin 81 mg PO DAILY 
6. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Gabapentin 100 mg PO DAILY 
3. Levothyroxine Sodium 50 mcg PO DAILY 
4. Vitamin D ___ UNIT PO DAILY 
5. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
6. ValACYclovir 500 mg PO Q24H 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient Global Amnesia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted after an episode of memory loss and confusion. 
This is due to transient global amnesia. Your MRI of your brain 
with a spot in the right hippocampus. Your EEG was negative for 
seizures or epileptiform discharges. Please start taking aspirin 
81mg.

It was a pleasure taking care of you, and we wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___